US07696226B2
tert-butyl 2-{(2S,3S)-2-[(methoxycarbonyl)amino]-3-methylpentanoyl}hydrazinecarboxylate
Example 3A (0.54 g, 2.85 mmol) was dissolved in ethyl acetate (14 mL) and treated with EDAC (0.49 g, 1.1 equivalents), HOBT (0.42 g, 1.1 equivalents), NMM (0.48 mL, 1.2 equivalents), and t-butyl carbazate (0.45 g, 1.2 equivalents) at 25° C. for 16 hrs. The mixture was washed with saturated sodium bicarbonate, water, brine, dried over sodium sulfate, filtered and the solvents were evaporated. The crude residue was purified using dichloromethane-7% methanol/dichloromethane to give 0.77 g (89%) of the title compound.

reactant | EDAC | 0.49 g, 1.1 equivalents | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.42 g, 1.1 equivalents | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 0.48 mL, 1.2 equivalents | CN1CCOCC1 | C5H11NO
reactant | t-butyl carbazate | 0.45 g, 1.2 equivalents | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | ethyl acetate | 14 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-{(2S,3S)-2-[(methoxycarbonyl)amino]-3-methylpentanoyl}hydrazinecarboxylate | 0.77 g, 89% | COC(=O)N[C@H](C(=O)NNC(=O)OC(C)(C)C)[C@H](CC)C | C13H25N3O5
